US07727986B2
N′-{2,5-dimethyl-4-[2-(methyl-phenyl-amino)-pyrimidin-4-yloxy]-phenyl}-N-ethyl-N-methyl-formamidine-Process (d2)-Compound (V) to Compound (I)
To a mixture of 252 mg (0.7 mmol) of [4-(4-Amino-2,5-dimethyl-phenoxy)-pyrimidin-2-yl]-methyl-phenyl-amine and 4 ml of trimethoxymethane, 20 mg of p-toluene sulfonic acid were added. The reaction mixture was refluxed for 2 hrs and concentrated in vacuo. The mixture was solved in 10 ml of dichloromethane and 62 mg (1.05 mmol) methyl ethyl amine was added. After stirring 18 hrs at ambient temperature the mixture was evaporated and yielded 280 mg (89%) with a purity of 87%; log P (pH 2.3)=1.61.

reactant | [4-(4-Amino-2,5-dimethyl-phenoxy)-pyrimidin-2-yl]-methyl-phenyl-amine | 0.7 mmol, 252 mg | NC1=CC(=C(OC2=NC(=NC=C2)N(C2=CC=CC=C2)C)C=C1C)C | C19H20N4O
reactant | trimethoxymethane | 4 ml | COC(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methyl ethyl amine | 1.05 mmol, 62 mg | CNCC | C3H9N
product | N′-{2,5-dimethyl-4-[2-(methyl-phenyl-amino)-pyrimidin-4-yloxy]-phenyl}-N-ethyl-N-methyl-formamidine | CC1=C(C=C(C(=C1)OC1=NC(=NC=C1)N(C1=CC=CC=C1)C)C)N=CN(C)CC | C23H27N5O
